US04752608
To solution of 4-hydroxy-6-methyl-2-(6-n-propyl-2-pyridinyl)pyrimidine (2 g) in toluene (20 ml), was added phosphoryl chloride (2 g). The mixture was heated under refluxing for one hour and left to stand to room temperature. Aqueous sodium carbonate solution was added thereto until the reaction solution became about pH 8 to be separated into two layers. Toluene layer was collected and washed with water and dried over anhydrous magnesium sulfate. The toluene layer was concentrated under reduced pressure to obtain 4-chloro-6-methyl-2-(6-n-propyl-2-pyridinyl)pyrimidine (2.03 g).

reactant | 4-hydroxy-6-methyl-2-(6-n-propyl-2-pyridinyl)pyrimidine | 2 g | OC1=NC(=NC(=C1)C)C1=NC(=CC=C1)CCC | C13H15N3O
reactant | phosphoryl chloride | 2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-methyl-2-(6-n-propyl-2-pyridinyl)pyrimidine | 2.03 g | ClC1=NC(=NC(=C1)C)C1=NC(=CC=C1)CCC | C13H14ClN3
